US07572809B2
b) Preparation of 3-(4-Hydroxy-3-methoxy-phenyl)-propionic acid
To a solution of 3-(4-Hydroxy-3-methoxy-phenyl)-acrylic acid (20 g, 103 mmol) in EtOAc (100 ml) and MeOH (100 ml) was added carefully 10% Pd/C (2.0 g), the reaction mixture was shaken in Parr apparatus for 5 hs under 30-40 psi of hydrogen, then the solution was passed through a celite pad and the catalyst was washed with methanol, the filtrate was concentrated and dried at 50° C. under reduced pressure to give product (18 g, 89.16%). LC-MS: m/e 195 (M−1).

reactant | 3-(4-Hydroxy-3-methoxy-phenyl)-acrylic acid | 103 mmol, 20 g | OC1=C(C=C(C=C1)C=CC(=O)O)OC | C10H10O4
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | 3-(4-Hydroxy-3-methoxy-phenyl)-propionic acid | 18 g, 89.16% | OC1=C(C=C(C=C1)CCC(=O)O)OC | C10H12O4
